US04697030
Preparation of Diethyl Hydroxymethylphosphonate
To a 2 liter, round bottomed flask fitted with a nitrogen inlet were added 500 grams (3.6 mole) of diethyl phosphite (Aldrich), 120 grams (3.8 mole) of paraformaldehyde (Baker) and approximately 6 milliliters of triethylamine. The mixture was stirred overnight at room temperature but no visible reaction had occurred so approximately 10 milliliters more of triethylamine was added and the mixture was slowly warmed to 90° C. The solution was heated for approximately an additional hour, filtered hot and distilled. 320 grams of a liquid product corresponding to a 60% yield was obtained.

reactant | diethyl phosphite | 3.6 mole, 500 grams | P(OCC)(OCC)[O-]
reactant | paraformaldehyde | 3.8 mole, 120 grams | C=O | CH2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | triethylamine | approximately 6 milliliters | C(C)N(CC)CC | C6H15N
product | Diethyl Hydroxymethylphosphonate | 320 grams, 60% yield | OCP(OCC)(OCC)=O | C5H13O4P
